US07439240B2
(i) 4-Chloro-7-ethyl-2-(methylthio)-7H-pyrrolo[2,3-d]pyrimidine
Sodium hydride (0.44 g, 60% dispersion in oil) was added portionwise to a stirred solution of 4-chloro-2-(methylthio)-7H-pyrrolo[2,3-d]pyrimidine (2 g) in N,N-dimethylformamide (30 ml) at 0° C. After 0.75 h, ethyl iodide (0.88 ml) was added, the mixture stirred for 2 h, quenched with water and partitioned between ethyl acetate and brine. The organics were washed with water, dried (MgSO4), evaporated under reduced pressure and the residue purified by chromatography on silica eluting with 15% ethyl acetate in isohexane. Yield 1.98 g

reactant | Sodium hydride | 0.44 g | [H-].[Na+]
reactant | 4-chloro-2-(methylthio)-7H-pyrrolo[2,3-d]pyrimidine | 2 g | ClC=1C2=C(N=C(N1)SC)NC=C2 | C7H6ClN3S
reactant | ethyl iodide | 0.88 ml | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-7-ethyl-2-(methylthio)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)SC)N(C=C2)CC | C9H10ClN3S
